US07618961B2
Ethyl {2-[([1,1′-biphenyl]-4-ylsulfonyl)amino]-1,3-thiazol-4-yl}(oxo)acetate
The title compound was prepared from ethyl (2-amino-4-thiazolyl)glyoxylate and 4-phenylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (28.2 mg) with purity >80%. LCMS (pos) m/z 417.0.

reactant | ethyl (2-amino-4-thiazolyl)glyoxylate | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 4-phenylbenzenesulfonyl chloride | C1(=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO2S
product | Ethyl {2-[([1,1′-biphenyl]-4-ylsulfonyl)amino]-1,3-thiazol-4-yl}(oxo)acetate | C1(=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C(C(=O)OCC)=O)C1=CC=CC=C1 | C19H16N2O5S2
